US07067517B2
Methyl-phenyl-carbamic acid 4-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-benzenesulfonylamino]-ethyl}-phenyl ester
To a stirred solution of 1-[2-(4-bromo-phenoxy)-ethyl]-pyrrolidine (6.72 g, 25 mmol) in THF (45 mL) was added dropwise 1.6 M solution in hexanes n-BuLi (14 mL, 22.4 mmol) over a 5-min period at −78° C. The mixture was stirred at −78° C. for 15 min. Then gaseous sulphur dioxide (ca. 6 g) was added causing an immediate precipitation. The mixture was allowed to warm to room temperature and stirred for 1 h. The precipitated lithium sulfinate was isolated by filtration under N2 (g), washed with THF (40 mL) and dried in vacuo providing 5.04 g (78%) of lithium; 4-(2-pyrrolidin-1-yl-ethoxy)-benzenesulfinate as a solid. This lithium sulfinate (179 mg, 0.69 mmol) was suspended in CH2Cl2 (2 mL) and stirred with NCS (80 mg, 0.60 mmol) for 10 min at rt. A solution of N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester as its TFA salt (0.55 mmol) in CH2Cl2 (3 mL) was added together with DIPEA (2.0 mmol). The mixture was stirred at rt for 16 h and evaporated to dryness. It was then redissolved in MeCN and purified by preparative HPLC (Gilson). This gave 89 mg (25%) of the title compound as its TFA salt as a crystals.

reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-benzenesulfinate | N1(CCCC1)CCOC1=CC=C(C=C1)S(=O)[O-]
reactant | NCS | 0.60 mmol, 80 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | N-methyl-N-phenyl-carbamic acid 4-(2-amino-ethyl)phenyl ester | NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H18N2O2
reactant | TFA | 0.55 mmol | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DIPEA | 2.0 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | Methyl-phenyl-carbamic acid 4-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-benzenesulfonylamino]-ethyl}-phenyl ester | N1(CCCC1)CCOC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C28H33N3O5S
